US07863314B2
B. 3-[5-Amino-4-(pyridine-2-carbonyl)-pyrazol-1-yl]-N-cyclopropyl-4-methyl-benzamide
Cyclohexylmagnesium chloride (5 mL, 2.0 M in Et2O) was added dropwise to the solution of 2-iodopyridine (1.03g, 5 mmol) in THF (15 mL) at −20° C. The mixture was stirred at this temperature for 20 min before 3-(5-Amino-4-cyano-pyrazol-1-yl)-N-cyclopropyl-4-methyl-benzamide (140 mg, 0.5 mmol) was added, then stirred at room temperature over night. The reaction was quenched by the addition of K2CO3 aqueous solution, then the mixture was extracted with EtOAc and the organic layers washed with water and brine. Purification by column chromatography on silica gel eluted with EtOAc provided the product as a white solid (60 mg, 33%). HPLC (4 minute 10-90 gradient) tR 2.09 min; MS m/z 362.20 [M+H]+.

reactant | Cyclohexylmagnesium chloride | 2.0 M, 5 mL | C1(CCCCC1)[Mg]Cl
reactant | 2-iodopyridine | 5 mmol, 1.03g | IC1=NC=CC=C1 | C5H4IN
reactant | 3-(5-Amino-4-cyano-pyrazol-1-yl)-N-cyclopropyl-4-methyl-benzamide | 0.5 mmol, 140 mg | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C#N | C15H15N5O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-[5-Amino-4-(pyridine-2-carbonyl)-pyrazol-1-yl]-N-cyclopropyl-4-methyl-benzamide | 60 mg, 33% | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(=O)C1=NC=CC=C1 | C20H19N5O2
